US06251912B1
3-[4-(3-Bromo-phenylamino)-quinazolin-6-ylamino]-4-dimethylamino-cyclobut-3-ene-1,2-dione
A mixture of 0.8 g of 3-[4-(3-Bromo-phenylamino)-quinazolin-6-ylamino]4-ethoxy-cyclobut-3-ene-1,2-dione, 8 mL of 40% dimethylamine, and 8 mL of ethanol was refluxed for 2 hr. The mixture was cooled to room temperature and the solid was collected and washed with ethanol and ether giving 0.7 g of 3-[4-(3-Bromo-phenylamino)-quinazolin-6-ylamino]-4-dimethylamino-cyclobut-3-ene-1,2-dione as a yellow powder: mass spectrum (m/e): M+H 438.1, 440.1.

reactant | 3-[4-(3-Bromo-phenylamino)-quinazolin-6-ylamino]4-ethoxy-cyclobut-3-ene-1,2-dione | 0.8 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC=1C(C(C1OCC)=O)=O | C20H15BrN4O3
reactant | dimethylamine | 8 mL | CNC | C2H7N
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 3-[4-(3-Bromo-phenylamino)-quinazolin-6-ylamino]-4-dimethylamino-cyclobut-3-ene-1,2-dione | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC=1C(C(C1N(C)C)=O)=O | C20H16BrN5O2
